data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,5392,"C[C:1](=[CH2:2])[N:3]1CCCC1.[CH2:4]=[CH:5][CH:6]=[O:7]|(3, 1);((1, 2), 4);((4, 5), 6);((6, 7), 7)"
train,pmechdb_split_0,0,75,"CCC1CCCC(C)[CH:1]1[Cl:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6818,"CS[CH:1]=[O+:2]C.C[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4686,"O[P:1](O)O.[OH:2][Cl:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8670,"Cl[P:1](Cl)(Cl)=[O:2].OC1CCCCC1[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9418,"CC(=O)[O-:1].CCC(CCC1(C)C(=O)CCC1=O)=[O+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7125,"CCO[C:1]([CH:2](C(C)=O)[H:3])=[O:4].CC[O-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,4169,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CCO.CCOC(=O)C1=N[N:1](C2=CC(C#N)=CC=C2)[C:2](C2=CC=CO2)([OH2+:3])C1.O|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1674,"CC1C(=O)CCC2(C)CCCCC12[O-:1].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9098,"C=CC(O)(NCC)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8409,"C[Si](C)(C)C[CH:1]=[CH2:2].[CH3+:3]|((1, 2), 3)"
train,pmechdb_split_0,0,1029,"CCC[CH:1]=[C:2](C1=C(O)C=CC(Br)=C1)[N:3]1CCCC1C1=NN=NN1.O.O=C(C(F)(F)F)[O:4][H:5].O=CC1=CC=C([N+](=O)[O-])C=C1|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,1816,"[CH2:1]=[NH:2]|((1, 2), 2)"
train,pmechdb_split_0,0,9778,"CCN(CC)C(C)(O)[NH:1]CC.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,10314,"CC[N+:1](CC)=[S:2](F)[O:3][CH2:4]C.F.[F-:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,3927,"C[CH2-:1].C[Si:2](C)(C)Cl|(1, 2)"
train,pmechdb_split_0,0,1992,"CCOC(CCCCCCC(C)=O)[O+:1](CC)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7654,"C[P+](C)(C)[CH2:1][H:2].[Li:3][CH3:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,708,"COCOC1CC2CC[N+](C)([O-:1])CC2C12COC(=O)N2.O=C(O[C:2](C(F)(F)F)=[O:3])C(F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8429,"CC=C[CH2:1][Cl:2].N#[C-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3893,"C[O:1][CH:2](N)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4969,"C1=CC=[NH+]C=C1.C[C:1](C1=CN=CC=C1)=[O:2].O[NH2:3].[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5241,"[H:1][CH2:2][CH:3]=[O:4].[OH-:5]|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4003,"CC[O-:1].C[C:2]([CH:3](C1=CC=CC=C1)[H:4])=[O:5]|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,1973,"C[N:1](C=O)[Cl:2].C[Si](C)(C)C[CH:3]=[CH2:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,9993,"C[CH+:1]C.FC(F)(F)C1=C[CH:2]=[CH:3]O1|((2, 3), 1)"
train,pmechdb_split_0,0,3101,"COC(=O)CCC(C(C)=O)C(C)C([NH3+])[O-:1].O=C([O-])O.[H:2][NH3+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2562,"CC1(O)CC[C:1](=[O:2])[CH:3]1[H:4].CC[O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,1918,"CCCCCC(C[C:1]#[C:2]CCC)C[N+:3](CC1=CC=CC=C1)=[CH2:4]|((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,3352,"CCO[C:1](C)([OH:2])[OH+:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2058,"CCC1=C[C:1]([C:2](C)([CH:3](C2=CC=C(C)C=C2)[OH2+:4])[OH:5])=CC=C1.O=S(=O)([O-])C1=CC=C(C(F)(F)F)C=C1|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2789,"CC([O-])(C1=C(O)C=CC=C1)[NH+:1](CCO)[H:2].OCC[NH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6778,"CC(=O)O.O.O=C=O.O=[N+]([O-])[CH:1](CC[CH-:2][N+]1=CCCCC1)[H:3]|(2, 3);((3, 1), 1)"
train,pmechdb_split_0,0,4536,"C1C[CH:1]([H:2])[C:3](=[O:4])C1.CC[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2450,"CC1(C)OC(=O)[CH:1]([H:2])[C:3](=[O:4])O1.CCC=[N+](C)CC(=O)[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3009,"CC1=CC=C(S(=O)(=O)OC2CCC3([O:1][H:2])C4COC(=O)CC4CCC23C)C=C1.[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,1856,"CC[NH+](CC)CC.C[C:1](C1=C(NC(=O)C(CC2=CC=CC=C2)[NH2:2])C=CC=C1)=[O:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7104,"CC#[C:1][H:2].C[O:3][K]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,550,"CC1=CC=C(S(=O)(=O)[O:1][CH:2]2CC(C)CC(C3CCCCC3)C2OC(C)=[O:3])C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6005,"CC[O:1][H:2].C[C:3](C)(O)[Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,3030,"C=CC[CH](CC=C)[Li:1].CN(C)CC[N:2](C)C|(2, 1)"
train,pmechdb_split_0,0,1624,"N#CC1=C2C=C[CH:1]=[CH:2]C2=CC=C1.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8884,"C[C+]=C[Si:1](C)(C)C.C[O:2][Ti-]|(2, 1)"
train,pmechdb_split_0,0,6663,"CCOC(=O)NN(C(=O)OCC)P(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)[O+:1](C(C)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)[H:2].O=C(COC1=CC=CC=C1)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2902,"CO.COC1=C([NH2:1])C=CC(C(=O)O)=C1.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3441,"C[Si](C)(C)[CH2:1][K:2].[CH2:3]=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4988,"CCC(=O)N[C+:1]1C=C[C:2](S(=O)(=O)O)([H:3])[CH:4]=[CH:5]1.O=S(=O)(O)[O-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,1102,"CC1CCC[CH:1]([OH2+:2])[O:3]1.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2238,"CC=C[CH:1]1C(C)[Br+:2]1.[Br-:3]|(3, 1);((1, 2), 2)"
